US07772246B2
To a solution of 5-bromo-3-(2-(trimethylsilyl)ethynyl)pyridin-2-amine (B-7-2) (9.5 g, 35.3 mmol) in t-BuOH (100 mL) was added t-BuOK (10.5 g, 141.3 mmol). The mixture was stirred at 80° C. for 20 hours. TLC (Petroleum ether: EtOAc=5:1) showed that the reaction was complete. Then the mixture was cooled to room temperature. Concentrated hydrochoric acid (50 mL) was added to the mixture. Then the mixture was heated to reflux for 8 hours. TLC (Petroleum ether: EtOAc=5:1) showed that the reaction was complete. The mixture was cooled to room temperature and poured into water (100 mL). The mixture was filtered through a bed of Celite. The filtrate was diluted with water (100 mL) and made basic by the addition of 50% sodium hydroxide. The mixture was extracted with EtOAc (150 mL×3). The organic layers were washed with water (100 mL) and saturated sodium chloride (100 mL), dried over sodium sulfate and concentrated under reduced pressure to afford 5-bromo-1H-pyrrolo[2,3-b]pyridine (B-7-3) (6.2 g, 88.6%) as a light yellow solid.

reactant | 5-bromo-3-(2-(trimethylsilyl)ethynyl)pyridin-2-amine | 35.3 mmol, 9.5 g | BrC=1C=C(C(=NC1)N)C#C[Si](C)(C)C | C10H13BrN2Si
reactant | t-BuOK | 141.3 mmol, 10.5 g | CC(C)(C)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | hydrochoric acid | 50 mL | Cl | ClH
solvent | t-BuOH | 100 mL | CC(C)(C)O | C4H10O
solvent | water | 100 mL | O | H2O
product | 5-bromo-1H-pyrrolo[2,3-b]pyridine | 6.2 g, 88.6% | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
